US07067515B2
3-Bromo-2-(1,3-dioxolan-2-yl)-1-benzofuran (6.6 g 24.5 mmol) is dissolved in Et2O (100 ml) in a 3-neck, flame-dried, round-bottom flask under nitrogen and cooled to −78° C. tert-butylithium (31.7 ml, 53.9 mmol) is added dropwise, and the chilled solution is stirred 1 h. DMF (2.18 ml, 28.2 mmol) is dissolved in Et2O (25 ml) and also added dropwise, and the mixture is stirred at −78° C. for another 7 h. The reaction is warmed to rt, whereby oxalic acid dihydrate (6.18 g, 49.0 mmol) and water (25 ml) are added. The reaction continued stirring at rt overnight and is then diluted with water (125 ml) and EtOAc (175 ml). The layers are allowed to separate, and the aqueous is extracted with EtOAc (1×100 ml). The organics are combined, dried over sodium sulfate, filtered, and concentrated to a brown oil. The crude material is chromatographed over 350 g slurry-packed silica, eluting with 30% ethyl acetate/hexane. The appropriate fractions are combined and concentrated to afford 3.84 g (72%) of 2-(1,3-dioxolan-2-yl)-1-benzofuran-3-carbaldehyde as a yellow/orange oil. MS (EI) m/z: 218 (M+).

reactant | 3-Bromo-2-(1,3-dioxolan-2-yl)-1-benzofuran | 24.5 mmol, 6.6 g | BrC1=C(OC2=C1C=CC=C2)C2OCCO2 | C11H9BrO3
reactant | DMF | 28.2 mmol, 2.18 ml | CN(C)C=O | C3H7NO
reactant | oxalic acid dihydrate | 49.0 mmol, 6.18 g | O.O.C(C(=O)O)(=O)O
solvent | Et2O | 100 ml | CCOCC | C4H10O
solvent | Et2O | 25 ml | CCOCC | C4H10O
solvent | water | 125 ml | O | H2O
solvent | EtOAc | 175 ml | CCOC(=O)C | C4H8O2
solvent | water | 25 ml | O | H2O
product | 2-(1,3-dioxolan-2-yl)-1-benzofuran-3-carbaldehyde | 3.84 g, 72% | O1C(OCC1)C=1OC2=C(C1C=O)C=CC=C2 | C12H10O4
